US04645527
N-(Aminocarbonyl)-2-chlorobenzenesulfonamide
A solution of 314 g of 2-chlorobenzenesulfonyl isocyanate in 2 L of toluene was cooled to 0° C. and treated with 27 g of anhydrous liquid ammonia, added dropwise at a rate that maintained the temperature around 0° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature. The solids were collected by filtration, and washed with hexane and acetonitrile. The yield of N-(aminocarbonyl)-2-chlorobenzenesulfonamide was 313 g as a white solid, m.p. 160°-163° C.; IR (nujol): 3400, 3300, 1700, 1650, 1550, 1250, 1150 cm-1.

reactant | 2-chlorobenzenesulfonyl isocyanate | 314 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | ammonia | N | H3N
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
product | N-(Aminocarbonyl)-2-chlorobenzenesulfonamide | NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl | C7H7ClN2O3S
